US05656642
A solution of 5.75 g of sodium nitrite in 30 ml of water was dropwise added to a solution of 11.7 g of methyl 3-aminobenzoate and 20 ml of concentrated hydrochloric acid in 200 ml of water, at about 0° C. with cooling with ice-methanol. The mixture was stirred at the same temperature for 5 minutes. The mixture was then added to 650 ml of a 6% aqueous sulfurous acid solution being ice-cooled. The resulting mixture was stirred at 50°-60° C. for 2 days. The reaction mixture was allowed to cool and then extracted with ethyl acetate. The aqueous layer was made basic with an aqueous sodium hydroxide solution and extracted with ethyl acetate. The extract was washed with water and an aqueous sodium chloride solution in this order, then dried with anhydrous sodium sulfate, and concentrated under reduced pressure. To the residue was added ethanol. The mixture was made acidic with concentrated hydrochloric acid and then concentrated under reduced pressure. To the residue was added a slight amount of ethanol. The resulting insolubles were collected by filtration, washed with ethanol, and dried to obtain 3.1 g of methyl 3-hydrazinobenzoate hydrochloride as a white powder.

reactant | sodium nitrite | 5.75 g | N(=O)[O-].[Na+]
reactant | methyl 3-aminobenzoate | 11.7 g | NC=1C=C(C(=O)OC)C=CC1 | C8H9NO2
reactant | hydrochloric acid | 20 ml | Cl | ClH
reactant | sulfurous acid | S(O)(O)=O | H2O3S
solvent | water | 30 ml | O | H2O
solvent | water | 200 ml | O | H2O
product | methyl 3-hydrazinobenzoate hydrochloride | 3.1 g | Cl.N(N)C=1C=C(C(=O)OC)C=CC1 | InChI=1S/C8H10N2O2.ClH/c1-12-8(11)6-3-2-4-7(5-6)10-9;/h2-5,10H,9H2,1H3;1H
